US07208601B2
To a suspension of (2R)-amino-3-(5-bromo-thiophen-2-yl)-propionic acid methyl ester HCl (14.0 g, 46.59 mmol) (prepared from commercially available (2R)-amino-3-(5-bromo-thiophen-2-yl)-propionic acid) in DCM (250 mL) was added NaHCO3 (9.78 g, 116.49 mmol), water (100 mL). The solution was stirred for 10 min and Boc-anhydride (12.20 g, 55.91 mmol) was added. The reaction was stirred overnight. The organic layer was separated and washed with brine, dried (Na2SO4) and concentrated under reduced pressure to give 17.0 g of 3-(5-bromo-thiophen-2-yl)-2(R)-tert-butoxycarbonylamino-propionic acid methyl ester.

reactant | (2R)-amino-3-(5-bromo-thiophen-2-yl)-propionic acid methyl ester HCl | 46.59 mmol, 14.0 g | Cl.COC([C@@H](CC=1SC(=CC1)Br)N)=O
reactant | (2R)-amino-3-(5-bromo-thiophen-2-yl)-propionic acid | N[C@@H](C(=O)O)CC=1SC(=CC1)Br | C7H8BrNO2S
reactant | NaHCO3 | 116.49 mmol, 9.78 g | C(=O)(O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
reactant | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-bromo-thiophen-2-yl)-2(R)-tert-butoxycarbonylamino-propionic acid methyl ester | 17.0 g | COC([C@@H](CC=1SC(=CC1)Br)NC(=O)OC(C)(C)C)=O | C13H18BrNO4S
